US09359375B2
A solution of the solid tert-butyl 1-amino-4,4,4-trifluoro-1-oxobutan-2-ylcarbamate in dioxane (4 mL) and aq. 6N HCl (6 mL) was stirred at room temperature for 1 h. It was then concentrated in vacuo to give 2-amino-4,4,4-trifluorobutanamide hydrochloride as a solid (135 mg).

reactant | tert-butyl 1-amino-4,4,4-trifluoro-1-oxobutan-2-ylcarbamate | NC(C(CC(F)(F)F)NC(OC(C)(C)C)=O)=O | C9H15F3N2O3
reactant | HCl | 6N, 6 mL | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 2-amino-4,4,4-trifluorobutanamide hydrochloride | 135 mg | Cl.NC(C(=O)N)CC(F)(F)F | InChI=1S/C4H7F3N2O.ClH/c5-4(6,7)1-2(8)3(9)10;/h2H,1,8H2,(H2,9,10);1H
